US07414137B2
Preparation of (R)-3-(4-methoxy-benzyl)-2-oxo-thiazolidine-4-carboxylic acid (A compound of Formula IV):
A 22 L three-necked round bottom flask fitted with an internal temperature probe and a mechanical stirrer was charged with 3-mercapto-2-(4-methoxybenzylamino)-propionic acid (400.0 g, 1.66 mol), potassium carbonate (480.0 g, 3.47 mol) and 2.80 L of water. The mixture was heated at 40° C. with stirring until it became homogeneous and was then cooled to 20-25° C. A solution of N,N-carbonyldiimidazole (400.0 g, 222.47 mol) in 2.8 L of acetonitrile was added while maintaining an internal reaction temperature of less than 30° C. The reaction was monitored by HPLC and was complete upon the disappearance of starting material. The acetonitrile was removed by distillation at 40° C. and 80-100 torr. Iso-propyl acetate (200 mL) was added and the pH of the mixture was adjusted to 2 with 150 mL of 3M H2SO4. The biphasic mixture was filtered, separated and the organic layer azeotropically dried by distillation at atmospheric pressure. The final measured water content was less than 0.5%. The resulting solution was further diluted with 1.8 L of iso-propyl acetate and used in the next example. 1H NMR (300 MHz, DMSO) δ 7.15 (d, 8.3 Hz, 2H), 6.88 (d, 8.3 Hz, 2H), 4.52 (AB, JAB=15.5 Hz, ΔvAB=238.4 Hz, 2H), 4.31-4.24 (m, 1H), 3.71 (s, 3H), 3.67-3.59 (m, 1H), 3.36-3.28 (m, 1H).

reactant | 3-mercapto-2-(4-methoxybenzylamino)-propionic acid | 1.66 mol, 400.0 g | SCC(C(=O)O)NCC1=CC=C(C=C1)OC | C11H15NO3S
reactant | potassium carbonate | 3.47 mol, 480.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2.80 L | O | H2O
reactant | N,N-carbonyldiimidazole | 222.47 mol, 400.0 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | acetonitrile | 2.8 L | C(C)#N | C2H3N
product | (R)-3-(4-methoxy-benzyl)-2-oxo-thiazolidine-4-carboxylic acid | COC1=CC=C(CN2C(SC[C@H]2C(=O)O)=O)C=C1 | C12H13NO4S
